US04162325
167.4 g (1.2 mole) of glycine ethyl ester hydrochloride are suspended in 4 liters of methylene chloride, the hydrochloric acid being neutralized by adding 168 ml (1.2 mole) of triethylamine. The reaction mixture is cooled to about 0° C. and a suspension of 171.6 g (1.2 mole) of 2-oxo-1-pyrrolidineacetic acid in 1500 ml methylene chloride is added. Without allowing the temperature to rise above 5° C., a solution of 272 g (1.4 mole) of DCC in 300 ml of methylene chloride is added dropwise to this mixture. Stirring is maintained for 2 hours at the same temperature and the reaction mixture is then allowed to return to ambient temperature, while stirring for 16 hours. 80 ml of acetic acid are then added, the reaction mixture is cooled to 0° C. and the precipitate is filtered off. The filtrate is evaporated to dryness and the residue redissolved in ethyl acetate, followed by filtering to remove insoluble matter. The filtrate is treated with highly absorbing active charcoal (Norite), again filtered and the filtrate is distilled at 190° C. at a pressure of 0.01 mm Hg. There are thus obtained 256 g of a syrup which is stirred with 1500 ml of anhydrous diethyl ether and which is crystallized by cooling in an ice bath. 177.5 g of N-(2-oxo-1-pyrrolidineacetyl)-glycine ethyl ester are thus obtained (yield: 64% of theory); M.P. 63°-64° C. The melting point of a sample recrystallized from a 1:2 v/v mixture of ethyl acetate and anhydrous diethyl ether is 64°-65° C.

reactant | glycine ethyl ester hydrochloride | 1.2 mole, 167.4 g | Cl.C(C)OC(CN)=O
reactant | hydrochloric acid | Cl | ClH
reactant | triethylamine | 1.2 mole, 168 ml | C(C)N(CC)CC | C6H15N
reactant | 2-oxo-1-pyrrolidineacetic acid | 1.2 mole, 171.6 g | O=C1N(CCC1)CC(=O)O | C6H9NO3
reactant | DCC | 1.4 mole, 272 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | 4 liters | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | N-(2-oxo-1-pyrrolidineacetyl)-glycine ethyl ester | 177.5 g, yield: 64% | C(C)OC(CNC(CN1C(CCC1)=O)=O)=O | C10H16N2O4
